US08685986B2
7-(b) N-[4-(4,5-Dihydrothiazol-2-yl)benzyl]-4-fluorobenzenesulfonamide
To a solution of N-(4-cyanobenzyl)-4-fluorobenzenesulfonamide (1.23 g, 4.24 mmol) obtained in Reference Example 7-(a) in ethanol (5 ml) was added 2-aminoethanethiol (0.426 g, 5.52 mmol), which was deaerated under reduced pressure, followed by argon substitution. This reaction mixture was then heated to reflux for 6 hours. After completion of the reaction, a saturated aqueous sodium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; chloroform:ethyl acetate=7:3 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (1.32 g) as a white solid. (Yield: 89%)

reactant | N-(4-cyanobenzyl)-4-fluorobenzenesulfonamide | 4.24 mmol, 1.23 g | C(#N)C1=CC=C(CNS(=O)(=O)C2=CC=C(C=C2)F)C=C1 | C14H11FN2O2S
reactant | 2-aminoethanethiol | 5.52 mmol, 0.426 g | NCCS | C2H7NS
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[4-(4,5-Dihydrothiazol-2-yl)benzyl]-4-fluorobenzenesulfonamide | 1.32 g, Yield: 89% | S1C(=NCC1)C1=CC=C(CNS(=O)(=O)C2=CC=C(C=C2)F)C=C1 | C16H15FN2O2S2
